US08193228B2
A solution of ethyl bromodifluoromethylphosphonate (3.2 g, 12.1 mmol) in tetrahydrofuran (20 mL) was added dropwise to a solution of isopropylmagnesium chloride (2 M in tetrahydrofuran) (6.1 mL, 12.1 mmol) in tetrahydrofuran (20 mL) at −78° C. After stirring at −78° C. for 5 min, a solution of 2,3-difluoro-4-(5-fluoropyridin-2-yl)benzaldehyde (1.92 g, 8.1 mmol) in tetrahydrofuran (20 mL) was added dropwise. After stirring for a further 5 min at −78° C. then a further 1 h between −78 and 0 then a further 1 h between 0 and ambient temperature. The reaction mixture was poured into saturated ammonium chloride and extracted with methylene chloride. Combined extracts were washed with saturated aqueous sodium bicarbonate, dried (sodium sulfate) and concentrated in vacuo to afford a slightly yellow oil. Chromatography over silica eluting with 0-40% acetone/methylene chloride afforded diethyl {2-[2,3-difluoro-4-(5-fluoropyridin-2-yl)phenyl]-1,1-difluoro-2-hydroxyethyl}phosphonate as an off-white solid.

reactant | ethyl bromodifluoromethylphosphonate | 12.1 mmol, 3.2 g | BrC(F)(F)P(OCC)([O-])=O
reactant | isopropylmagnesium chloride | 12.1 mmol, 2 M, 6.1 mL | C(C)(C)[Mg]Cl
reactant | 2,3-difluoro-4-(5-fluoropyridin-2-yl)benzaldehyde | 8.1 mmol, 1.92 g | FC1=C(C=O)C=CC(=C1F)C1=NC=C(C=C1)F | C12H6F3NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | acetone methylene chloride | CC(=O)C.C(Cl)Cl
product | diethyl {2-[2,3-difluoro-4-(5-fluoropyridin-2-yl)phenyl]-1,1-difluoro-2-hydroxyethyl}phosphonate | FC1=C(C=CC(=C1F)C1=NC=C(C=C1)F)C(C(F)(F)P(OCC)(OCC)=O)O | C17H17F5NO4P
